US05192549
C. Loading of Liposomes with Doxorubicin
1 ml of a 10 mg/ml solution of doxorubicin HCl dissolved in saline-desferal was added to 1 ml of the liposome dispersion after the liposomes were gel filtrated on a Sephadex G-50 column in Step B. The mixture was incubated at room temperature for approximately 24 hours. The incubation was shorter for certain types of kinetic experiments. At the end of incubation period, the mixture was passed through a Dowex 50 WX-4 (Serva) column to adsorb the free, unincorporated drug. As small amount as 60 mg of the resin was able to adsorb as much as 1 mg of free doxorubicin in a time shorter than less than 15 minutes. Liposome incorporated doxorubicin did not adsorb to the Dowex resin at all and remained in the liposomes. A column containing 1-2 g dry weight of the resin was sufficient to adsorb all unincorporated drug. To determine the ratio of incorporated drug to liposomal lipid, the phospholipid and doxorubicin concentration were determined. PC concentration was determined according to Anal. Biochem., 104: 10-14 (1980) modified so that 20 ul of 10M HCl were added to the assay mixture, in order to avoid partitioning of doxorubicin into the organic phase of the assay. EPC was used for a standard curve.

reactant | doxorubicin HCl | C[C@H]1[C@H]([C@H](C[C@@H](O1)O[C@H]2C[C@@](CC=3C2=C(C4=C(C3O)C(=O)C5=CC=CC(=C5C4=O)OC)O)(C(=O)CO)O)N)O.Cl
solvent | desferal | CC(=O)N(CCCCCNC(=O)CCC(=O)N(CCCCCNC(=O)CCC(=O)N(CCCCCN)O)O)O.CS(=O)(=O)O
product | Doxorubicin | C[C@H]1[C@H]([C@H](C[C@@H](O1)O[C@H]2C[C@@](CC=3C2=C(C4=C(C3O)C(=O)C5=CC=CC(=C5C4=O)OC)O)(C(=O)CO)O)N)O | C27H29NO11
